US06548511B1
Sodium hydride (60% in oil, 1.01 g, 15.2 mmol) was added to DMF (30 ml) solution of 2,5-bis(trifluoromethyl)aniline (3.2 g, 14.1 mmol), followed by stirring at room temperature for 30 minutes. Then, 3-isobutyl-2-methylsulfonyl-6-trifluoromethyl-4(3H)-pyrimidinone (3.0 g, 11.7 mmol) was added, followed by further stirring for 4 hours. After completion of the reaction, the reaction solution was diluted with ether (20 ml), excess sodium hydride was neutralized with saturated ammonium chloride aqueous solution (20 ml), and then the aqueous layer was separated. After extraction of the aqueous layer with ether (20 ml×2), the organic layers were combined, washed with saturated brine (10 ml), and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration, and the solvent was evaporated from the resulting filtrate under a reduced pressure. By purifying the thus obtained crude product by a silica gel column chromatography (hexane:ethyl acetate=20:1), 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-isobutyl-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 56] was obtained as colorless crystals.

reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 2,5-bis(trifluoromethyl)aniline | 14.1 mmol, 3.2 g | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
reactant | 3-isobutyl-2-methylsulfonyl-6-trifluoromethyl-4(3H)-pyrimidinone | 11.7 mmol, 3.0 g | C(C(C)C)N1C(=NC(=CC1=O)C(F)(F)F)S(=O)(=O)C | C10H13F3N2O3S
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | sodium hydride | [H-].[Na+]
solvent | Sodium hydride | 15.2 mmol, 1.01 g | [H-].[Na+]
product | 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-isobutyl-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 29% | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=CC(N1CC(C)C)=O)C(F)(F)F)(F)F | C17H14F9N3O
